US06376555B1
Preparation of 3-isopropoxy-4-(3-pyridyl)-cyclobut-3-ene-1,2-dione.
In a manner similar to Example 9, Step 1, 3-isopropoxy-4-(tri-n-butylstannyl)-3-cyclobutene-1,2-dione (1.90 g, 4.43 mmol), 3-iodopyridine (1.00 g, 4.87 mmol), benzylchlorobis(triphenylphosphine)palladium (II) (0.201 g, 0.267 mmol), and cuprous iodide (0.076 g, 0.399 mmol) were reacted together to give the title compound which was of sufficient purity to use in the next step: 1H NMR (DMSO-d6) δ 9.07(m,1H), 8.75(m,1H), 8.20(br d,1H), 7.65(m,1H), 5.50(sept,1H), 1.50(d,6H).

reactant | 3-isopropoxy-4-(tri-n-butylstannyl)-3-cyclobutene-1,2-dione | 4.43 mmol, 1.90 g | C(C)(C)OC=1C(C(C1[Sn](CCCC)(CCCC)CCCC)=O)=O
reactant | 3-iodopyridine | 4.87 mmol, 1.00 g | IC=1C=NC=CC1 | C5H4IN
product | 3-isopropoxy-4-(3-pyridyl)-cyclobut-3-ene-1,2-dione | C(C)(C)OC=1C(C(C1C=1C=NC=CC1)=O)=O | C12H11NO3
